US04207234
1-(1-Acetoxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone (13.8 g.) was dissolved in a solution of methanol (100 ml.) and water (100 ml.). Potassium carbonate (6 g.) and sodium borohydride (1.65 g.) were added to said solution under ice-cooling, and the mixture was subjected to reaction at 20° C. for an hour. The precipitated crystals were collected by filtration, washed with water and dried to give 3-(2-phenylacetamido)-2-azetidinone (5.15 g.). Furthermore, the same compound (1.35 g.) was recovered from the filtrate. Total yield was 6.5 g. Mp 191° to 193° C.

reactant | 1-(1-Acetoxy-2-methylpropyl)-3-(2-phenylacetamido)-2-azetidinone | 13.8 g | C(C)(=O)OC(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C17H22N2O4
reactant | Potassium carbonate | 6 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium borohydride | 1.65 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 3-(2-phenylacetamido)-2-azetidinone | 5.15 g | C1(=CC=CC=C1)CC(=O)NC1C(NC1)=O | C11H12N2O2
